US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(isobutylamino)isonicotinamide was prepared from 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide and isobutylamine using method C. NMR; δH [2H6]-DMSO 10.27,(1H, s), 8.62,(1H, t), 8.07,(1H, d), 7.93,(2H, d), 7.70-7.66,(2H, m), 7.43,(2H, d), 7.28,(1H, d), 6.88-6.84,(3H, m), 3.16,(2H, t), 3.09,(2H, t), 2.20,(3H, s), 1.83,(1H, m), 1.04,(1H, m), 0.90,(6H, d), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 3.02 min, MH+457.

reactant | 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide | ClC=1C=C(C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)C(=O)NCC2CC2)C=CN1 | C24H22ClN3O2
reactant | isobutylamine | C(C(C)C)N | C4H11N
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(isobutylamino)isonicotinamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(C1=CC(=NC=C1)NCC(C)C)=O | C28H32N4O2
